US07425560B2
b) 6-Amino-1-isobutyl-5-methylamino-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one
N-(6-Amino-1-isobutyl-4-oxo-2-thioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl)-formamide (0.25 g, 1.0 mmol) was suspended in dry tetrahydrofuran (5 mL) and borane.dimethylsulphide complex (1M in dichloromethane, 2.5 mL, 2.5 mmol) was added dropwise. The reaction mixture was stirred at ambient temperature for 2.5 h. To the resulting clear yellow solution was added a few drops of 2M hydrochloric acid to eliminate unreacted borane. Water was added and the resulting aqueous solution was extracted with dichloromethane (3×15 mL). The combined organic phase was washed with brine and dried over Na2SO4. The solvent was evaporated off under reduced pressure yielding the title compound (0.12 g, 54% yield). This material was used without further purification.

reactant | N-(6-Amino-1-isobutyl-4-oxo-2-thioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl)-formamide | 1.0 mmol, 0.25 g | NC1=C(C(NC(N1CC(C)C)=S)=O)NC=O | C9H14N4O2S
reactant | dimethylsulphide | 2.5 mmol, 1M, 2.5 mL | CSC | C2H6S
reactant | Water | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | borane | B | BH3
catalyst | hydrochloric acid | 2M, a few drops | Cl | ClH
product | 6-Amino-1-isobutyl-5-methylamino-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one | 0.12 g, 54% yield | NC1=C(C(NC(N1CC(C)C)=S)=O)NC | C9H16N4OS
